US20010049441A1
3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-7-azaindole (396 mg, 39.3%);
from 7-azaindole (500 mg, 4.2 mmol), 1,2,3,5,6,8,8a-heptahydrohydro-7-oxo-indolizine (589 mg, 4.2 mmol) and pyrrolidine (3.0 g, 42 mmol) in ethanol (4 mL) heating at reflux for 5 hrs.

reactant | 7-azaindole | 4.2 mmol, 500 mg | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | pyrrolidine | 42 mmol, 3.0 g | N1CCCC1 | C4H9N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-(1,2,3,5,8,8a-Hexahydro-7-indolizinyl)-1H-7-azaindole | C1CCN2CC=C(CC12)C1=CNC2=NC=CC=C12 | C15H17N3
